US06828460B2
(±)-3-[2,4-Bis(methoxymethoxy)phenyl]-N-ethylcyclohexanecarboxamide
Triethylamine (11 μl) and isobutylchloroformate (10 μl) were added to a stirred solution of (±)-3-[2,4-bis(methoxymethoxy)phenyl]cyclohexanecarboxylic acid in anhydrous tetrahydrofuran (2 ml) under argon at 0° C. After 30 min, ethylamine (0.5 ml, 2M solution in tetrahydrofuran) was added. The reaction mixture was partitioned between water (20 ml) and ethyl acetate (50 ml). The aqueous layer was extracted with ethyl acetate (2×20 ml) and the combined organic extracts were dried over magnesium sulfate and evaporated in vacuo to give the title compound as a solid (24 mg, quant.) and a mixture of diastereoisomers; m/z (ES+) 352 (M+H)+.

reactant | Triethylamine | 11 μl | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 10 μl | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | (±)-3-[2,4-bis(methoxymethoxy)phenyl]cyclohexanecarboxylic acid | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)C(=O)O | C17H24O6
reactant | ethylamine | 2M, 0.5 ml | C(C)N | C2H7N
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | (±)-3-[2,4-Bis(methoxymethoxy)phenyl]-N-ethylcyclohexanecarboxamide | 24 mg | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)C(=O)NCC | C19H29NO5
